US06476030B1
2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(thien-3-yl)pyrazolo[1,5-d][1,2,4]triazine
This was prepared in 86% yield using a similar procedure to that described in Example 18 except using thiophene-3-boronic acid instead of 3-trifluoromethylbenzeneboronic acid and 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine instead of 3-bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine. Data for title compound: mp=187-193° C. (CH2Cl2-EtOAc); 1H NMR (400 MHz, CDCl3) δ 1.35 (3H, t, J=7.3 Hz), 4.14 (2H, q, J=7.3 Hz), 5.59 (2H, s), 7.29 (1H, m), 7.40 (1H, td, J=7.6 and 0.8 Hz), 7.48 (1H, s), 7.49 (1H, s), 7.64-7.66 (2H, m), 7.81 (1H, m), 7.90 (1H, s), 9.46 (1H, s); MS (ES+) m/e 422 [MH]+; Anal. Found C, 56.14; H, 3.84; N, 22.75%. C20H16FN7OS.0.3H2O requires C, 56.28; H, 3.92; N, 22.97%.

reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC=2N(N=CN2)CC | C16H13BrFN7O
product | 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(thien-3-yl)pyrazolo[1,5-d][1,2,4]triazine | 86% yield | C(C)N1N=CN=C1COC1=NN2C(=NN=CC2=C1C1=CSC=C1)C1=C(C=CC=C1)F | C20H16FN7OS
